US05914328
22a. 3-((5-oxo-2-(S)-pyrrolidinyl)methoxy)pyridine
To a solution of triphenylphosphine (52.46 g, 0.20 mol) in 400 mL of anhydrous THF at 0° C. was added diethyl azodicarboxylate (31.49 mL, 0.20 mol) dropwise. The mixture was stirred at 0° C. for 30 minutes, then brought to room temperature. (S)-5(Hydroxymethyl)-2-pyrrolidinone (Aldrich Chemical Co., 15.19 g, 0.13 mol) and 3-hydroxypyridine (19.02 g, 0.20 mol) were added to the reaction vessel, and stirred for 16 hours. Solvent was removed in vacuo. The residue was diluted with CH2Cl2 and washed with 1N NaOH. After a brine wash (2×), the organic layer was dried over MgSO4. The residue was purified by silica gel flash chromatography using a gradient from 100% CHCl3 to 10% MeOH/CHCl3 (purification system was run twice), then recrystallized with ethyl acetate to give 4.0 g (16%) of the title compound as a white powder, mp.=121-122° C. TLC Rf =0.31 (10%MeOH/CHCl3). MS (DCI/NH3) m/e: 193 (M+H)+ and 210 (M+NH4)+. 1H NMR (CDCl3, 300 MHz) δ: 8.32-8.30 (m, 111), 8.27 (dd, J=4.40, 1.50 Hz, 1H), 7.25-7.16 (m, 2H), 6.17 (br s, 1H), 4.14-4.08 (m, 1H), 4.05 (dd, J=8.80, 3.70 Hz, 1H), 3.89 (dd, J=8.80, 7.70 Hz, 1H1), 2.49-2.23 (m, 3H), 1.99-1.87 (m, 1H). Anal. Calc. for C10H12N2O2 : C, 62.49; H, 6.29; N, 14.57; Found C, 62.53; H, 6.25; N, 14.71.

reactant | triphenylphosphine | 0.20 mol, 52.46 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.20 mol, 31.49 mL | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | (S)-5(Hydroxymethyl)-2-pyrrolidinone | 0.13 mol, 15.19 g | OC[C@@H]1CCC(N1)=O | C5H9NO2
reactant | 3-hydroxypyridine | 0.20 mol, 19.02 g | OC=1C=NC=CC1 | C5H5NO
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-((5-oxo-2-(S)-pyrrolidinyl)methoxy)pyridine | 4.0 g, 16% | O=C1CC[C@H](N1)COC=1C=NC=CC1 | C10H12N2O2
